data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:12]1[o:31][n:25][c:15]2[c:21]3[n+:11]([O-:26])[o:2][n:29][c:24]3[c:27]([N+:8]([O-:30])=[O:35])[cH:17][c:40]12.[cH:3]1[cH:5][c:38]([B-:39]2([c:14]3[s:22][c:13]([CH3:28])[cH:16][cH:32]3)[O:9][c:41]3[cH:34][cH:37][cH:36][cH:33][c:42]3[O:10]2)[cH:6][cH:4][c:7]1[C:23]([F:18])([F:19])[F:20]>>[O-:1][n+:12]1[o:31][n:25][c:15]2[c:40]1[CH:17]([c:14]1[s:22][c:13]([CH3:28])[cH:16][cH:32]1)[C:27](=[N+:8]([O-:30])[O-:35])[c:24]1[c:21]-2[n+:11]([O-:26])[o:2][n:29]1.[cH:3]1[cH:5][c:38](-[b-:39]2[o+:9][c:41]3[cH:34][cH:37][cH:36][cH:33][c:42]3[o:10]2)[cH:6][cH:4][c:7]1[C:23]([F:18])([F:19])[F:20]", "epd": [["LP-/Pi+", [9], [39, 9]], ["Sigma-/Sigma+", [14, 39], [14, 17]], ["Pi-/Pi+", [17, 27], [27, 8]], ["Pi-/LP+", [8, 35], [35]]]}
{"reaction_name": "Proton transfer in organocatalytic ion pair", "rsmi": "[CH2:1]1[CH2:4][CH2:5][CH2:2][NH+:7]1[H:10].[CH2:3]=[C:9]([O-:6])[CH3:8]>>[CH2:1]1[CH2:4][CH2:5][CH2:2][NH:7]1.[CH2:3]([C:9](=[O:6])[CH3:8])[H:10]", "epd": [["LP-/Pi+", [6], [6, 9]], ["Pi-/Sigma+", [3, 9], [3, 10]], ["Sigma-/LP+", [7, 10], [7]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[CH:1]1=[CH:2][c:3]2[cH:12][cH:11][cH:21][cH:8][c:13]2[CH:22]1[Na:14].[Cl:4][C:17]1=[C:19]([Cl:15])[C:7](=[O:10])[C:6](=[O:9])[C:20]([Cl:16])=[C:18]1[Cl:5]>>[CH:1]1=[CH:2][c:3]2[cH:12][cH:11][cH:21][cH:8][c:13]2[CH:22]1[C:6]1([O-:9])[C:7](=[O:10])[C:19]([Cl:15])=[C:17]([Cl:4])[C:18]([Cl:5])=[C:20]1[Cl:16].[Na+:14]", "epd": [["Sigma-/Sigma+", [22, 14], [22, 6]], ["Pi-/LP+", [6, 9], [9]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:2]([C:16](=[O:19])[c:21]1[cH:6][cH:28][c:20]([N:27]([CH3:22])[CH3:23])[cH:29][cH:7]1)=[S:30]([CH3:11])[CH3:12].[N+:1](=[O:3])([c:10]1[cH:8][c:13]([N+:17](=[O:5])[O-:24])[cH:18][c:9]2[c:26]1[n:15][o:25][n+:31]2[O-:4])[O-:14]>>[N+:1](=[O:3])([C:10]1=[CH:8][C:13](=[N+:17]([O-:5])[O-:24])[CH:18]([CH:2]([C:16](=[O:19])[c:21]2[cH:6][cH:28][c:20]([N:27]([CH3:22])[CH3:23])[cH:29][cH:7]2)[S+:30]([CH3:11])[CH3:12])[c:9]2[c:26]1[n:15][o:25][n+:31]2[O-:4])[O-:14]", "epd": [["Pi-/Sigma+", [2, 30], [2, 18]], ["Pi-/Pi+", [18, 13], [13, 17]], ["Pi-/LP+", [17, 5], [5]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:1][C:12](=[C:2]=[N-:22])[c:23]1[cH:28][cH:30][cH:34][cH:31][cH:29]1.[O:3]=[S:14](=[O:4])([N:13]([S:11][C:7]([F:8])([F:9])[F:10])[S:15](=[O:5])(=[O:6])[c:33]1[cH:18][cH:26][cH:21][cH:27][cH:19]1)[c:32]1[cH:16][cH:24][cH:20][cH:25][cH:17]1>>[CH3:1][C:12]([C:2]#[N:22])([S:11][C:7]([F:8])([F:9])[F:10])[c:23]1[cH:28][cH:30][cH:34][cH:31][cH:29]1.[O:3]=[S:14](=[O:4])([N-:13][S:15](=[O:5])(=[O:6])[c:33]1[cH:18][cH:26][cH:21][cH:27][cH:19]1)[c:32]1[cH:16][cH:24][cH:20][cH:25][cH:17]1", "epd": [["LP-/Pi+", [22], [2, 22]], ["Pi-/Sigma+", [12, 2], [12, 11]], ["Sigma-/LP+", [11, 13], [13]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[O:1]=[N+:22]([O-:9])[c:17]1[cH:2][cH:7][c:10]([CH:19]=[CH:14][N+:16]([O-:21])=[O:23])[cH:8][cH:3]1.[cH:4]1[cH:11][c:15]([S-:20])[cH:12][cH:5][c:13]1[O:18][CH3:6]>>[O:1]=[N+:22]([O-:9])[c:17]1[cH:2][cH:7][c:10]([CH:19]([CH:14]=[N+:16]([O-:21])[O-:23])[S:20][c:15]2[cH:11][cH:4][c:13]([O:18][CH3:6])[cH:5][cH:12]2)[cH:8][cH:3]1", "epd": [["LP-/Sigma+", [20], [20, 19]], ["Pi-/Pi+", [19, 14], [14, 16]], ["Pi-/LP+", [16, 23], [23]]]}
{"reaction_name": "Amide hydrolysis", "rsmi": "[O-:5][H:6].[O:1]=[C:4]([NH2:2])[CH3:3]>>[NH2:2][H:6].[O:1]=[C:4]([CH3:3])[O-:5]", "epd": [["LP-/Sigma+", [5], [4, 5]], ["Pi-/LP+", [1, 4], [1]], ["LP-/Pi+", [1], [1, 4]], ["Sigma-/LP+", [2, 4], [2]], ["LP-/Sigma+", [2], [2, 6]], ["Sigma-/LP+", [5, 6], [5]]]}
{"reaction_name": "Isonitrile acylation", "rsmi": "[C:2]([Cl:5])(=[O:6])[CH3:7].[CH3:1][N+:3]#[C-:4]>>[CH3:1][N+:3]#[C:4][C:2](=[O:6])[CH3:7].[Cl-:5]", "epd": [["LP-/Sigma+", [4], [2, 4]], ["Pi-/LP+", [2, 6], [6]], ["LP-/Pi+", [6], [2, 6]], ["Sigma-/LP+", [2, 5], [5]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[N:1]1([CH3:10])[C:11]2=[N:3][CH2:22][CH2:25][CH2:8][N:2]2[CH2:9][CH2:23][CH2:24]1.[cH:4]1[c:12]([CH+:28][c:13]2[cH:5][c:16]([F:20])[cH:27][c:17]([F:21])[cH:6]2)[cH:7][c:14]([F:18])[cH:26][c:15]1[F:19]>>[N:1]1([CH3:10])[C:11]2=[N+:2]([CH2:8][CH2:25][CH2:22][N:3]2[CH:28]([c:12]2[cH:4][c:15]([F:19])[cH:26][c:14]([F:18])[cH:7]2)[c:13]2[cH:5][c:16]([F:20])[cH:27][c:17]([F:21])[cH:6]2)[CH2:9][CH2:23][CH2:24]1", "epd": [["LP-/Pi+", [2], [11, 2]], ["Pi-/Sigma+", [3, 11], [3, 28]]]}
{"reaction_name": "Organolithium addition to nitriles", "rsmi": "[CH3:2][Li:6].[N:1]#[C:10][c:5]1[cH:3][cH:8][cH:7][cH:9][cH:4]1>>[Li+:6].[N-:1]=[C:10]([CH3:2])[c:5]1[cH:3][cH:8][cH:7][cH:9][cH:4]1", "epd": [["Sigma-/Sigma+", [2, 6], [2, 10]], ["Pi-/LP+", [1, 10], [1]]]}
